US07288538B2
To a solution of d/l-proline (2.0 g, 6.8 mmol) in aqueous sodium hydroxide (1M, 34.7 mL) chilled at 0° C., was added phenylsulfonyl chloride (2.21 mL, 17.0 mmol) slowly. The reaction was stirred overnight at room temperature. The reaction mixture was acidified with HCl (20 ml, aqueous, 1 N) and extracted with diethyl ether (2×20 mL). The combined organic extracts were then dried over magnesium sulfate and concentrated under reduced pressure to give the desired N-phenylsulfonyl proline (1.7 g) as a white solid used without any further purification.

reactant | l-proline | 6.8 mmol, 2.0 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | phenylsulfonyl chloride | 17.0 mmol, 2.21 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | HCl | 1 N, 20 ml | Cl | ClH
solvent | sodium hydroxide | 1M, 34.7 mL | [OH-].[Na+]
product | N-phenylsulfonyl proline | 1.7 g | C1(=CC=CC=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C11H13NO4S
